US07528147B2
0.028 g of sodium hydride at 60% in oil is added, in small portions, to solution of 0.26 g of 2-(5,7-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine in 11.5 ml of dimethylformamide. The suspension is agitated for approximately 1 hour at around 20° C. and then 0.04 ml of iodomethane is added. After agitation for approximately 18 hours at around 20° C., the mixture is run into 100 ml of a mixture of ice plus water, and extracted with three times 75 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure. 0.3 g of 2-(5,7-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is obtained in the form of a foam, the characteristics of which are as follows:

reactant | sodium hydride | 0.028 g | [H-].[Na+]
reactant | 2-(5,7-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.26 g | COC=1C=C2C(=CNC2=C(C1)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H21N3O4S
reactant | iodomethane | 0.04 ml | IC | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 11.5 ml | CN(C=O)C | C3H7NO
product | 2-(5,7-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.3 g | COC=1C=C2C(=CN(C2=C(C1)OC)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C25H23N3O4S
